US09169255B2
1,3,7-trimethyl-8-(3′,4′-dimethoxyphenyl)xanthine
A solution of 8-Bromo-1,3,7-trimethyl xanthine (315 mg, 1.15 mmol) and 3,4-dimethoxy phenylboronic acid (230 mg; 1.26 mmol) in 1,4-dioxane (5 ml) was treated tetrakis(triphenyl phosphine) palladium (0) (88 mg, 0.14 mmol) and potassium carbonate (277 mg, 2.0 mmol). The mixture was heated to 70° C. for 12 hrs under argon atmosphere. The reaction mixture was concentrated under reduced pressure. The residue was purified on a silica gel column eluting with 70% ethyl acetate in hexane to 100% ethyl acetate. The desired product was isolated as off white solid, Yield 297 mg, 78% PRO-04-46

reactant | 8-Bromo-1,3,7-trimethyl xanthine | 1.15 mmol, 315 mg | BrC1=NC=2N(C(N(C(C2N1C)=O)C)=O)C | C8H9BrN4O2
reactant | 3,4-dimethoxy phenylboronic acid | 1.26 mmol, 230 mg | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | potassium carbonate | 2.0 mmol, 277 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenyl phosphine) palladium (0) | 0.14 mmol, 88 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1,3,7-trimethyl-8-(3′,4′-dimethoxyphenyl)xanthine | CN1C(=O)N(C=2N=C(N(C2C1=O)C)C1=CC(=C(C=C1)OC)OC)C | C16H18N4O4
